US08357693B2
4-Methoxy-5-(2-methoxyethoxy)-(3-nitrophenyl)aminobenzamide
To a mixture of 2-amino-4-methoxy-5-(2-methoxyethoxy)benzamide (1.78 g, 7.40 mmol) and pyridine (2.40 mL, 29.6 mmol) in CHCl3 (40 mL) was added 3-nitrobenzoyl chloride (1.44 g, 7.8 mmol). The mixture was stirred at RT for 2.5 h upon which the mixture was concentrated in vacuo to give the desired product, which was used directly in the next step without purification.

reactant | 2-amino-4-methoxy-5-(2-methoxyethoxy)benzamide | 7.40 mmol, 1.78 g | NC1=C(C(=O)N)C=C(C(=C1)OC)OCCOC | C11H16N2O4
reactant | pyridine | 29.6 mmol, 2.40 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-nitrobenzoyl chloride | 7.8 mmol, 1.44 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Methoxy-5-(2-methoxyethoxy)-(3-nitrophenyl)aminobenzamide | COC1=CC(=C(C(=O)N)C=C1OCCOC)NC1=CC(=CC=C1)[N+](=O)[O-] | C17H19N3O6
